US04709081
Into a solution of 84.4 g. (0.592 mole) of 3-chlorobenzyl alcohol in 40 cm3. of benzene 61.5 g. (0.6 mole) of acetic acid anhydride are dropped during 15 minutes while boiling. The reaction mixture is refluxed with 100 cm3. of benzene and washed with 100 cm3. of water thoroughly. The organic phase is separated and evaporated. 105.2 g. of 3-chlorobenzyl acetate are obtained which is suitable to ether-formation. nD20 : 1.5226, yield 96%.

reactant | 3-chlorobenzyl alcohol | 0.592 mole | ClC=1C=C(CO)C=CC1 | C7H7ClO
reactant | acetic acid anhydride | 0.6 mole | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 61.5 g | C1=CC=CC=C1 | C6H6
product | 3-chlorobenzyl acetate | yield 96% | C(C)(=O)OCC1=CC(=CC=C1)Cl | C9H9ClO2
